US06329397B1
A solution of 1-[4-(4-fluoro-benzyloxy)-benzenesulfonyl]-3-hydroxy-3-methyl-piperidine-2-carboxylic acid tert-butyl ester in 2 mL of 1:1 trifluoroacetic acid-CH2Cl2 was stirred for 15 min-2 h at room temperature. Concentration in vacuo afforded 1-[4-(4-fluoro-benzyloxy)-benzenesulfonyl]-3-hydroxy-3-methyl-piperidine-2-carboxylic acid as a colorless syrup:

reactant | 1-[4-(4-fluoro-benzyloxy)-benzenesulfonyl]-3-hydroxy-3-methyl-piperidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCCC1(C)O)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C24H30FNO6S
solvent | trifluoroacetic acid CH2Cl2 | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 1-[4-(4-fluoro-benzyloxy)-benzenesulfonyl]-3-hydroxy-3-methyl-piperidine-2-carboxylic acid | FC1=CC=C(COC2=CC=C(C=C2)S(=O)(=O)N2C(C(CCC2)(C)O)C(=O)O)C=C1 | C20H22FNO6S
